US05401868
1-Butanoyloxyethyl 4-Chlorophenylcarbamate
A solution of 1-butanoyloxyethyl carbonochloridate (5 mmol) in CHCl3 (10 mL) prepared as above but substituting CHCl3 for CCl4 is added to a solution of 4-chloroaniline (1.3 g, 10 mmol) in Et2O (40 mL) at -70° C. Following stirring for 2 h at -70° C. and 3 h at -40° C. the mixture is kept at -20° C. for 3d. After filtration, treatment of the filtrate with charcoal, and evaporation of the filtrate the residue is triturated with ice-cold pentane (15 mL) and recrystallized from pentane (70 mL) to yield 0.4 g (28%) of the title compound with mp 52°-54° C. C13H16ClNO4 calc. C 54.65 H 5.64 Cl 12.41 N 4.90 (285.7) found 54.72 5.64 12.31 4.83 IR (10% CHCl3): ν=1750 cm-1. 1H-NMR (CDCl3 /TMS)45 : δ=0.95 (t, 3H, J=7 Hz, CH3 (CH2)2CO); 1.50 (d, 3H, J=5.5 Hz, CH3CH); 1.7 (m, 2H, CH3CH2CH2CO); 2.31 (t, 2H, J=7 Hz, CH2CO); 6.8 (bs, 1H, NH); 6.91 (q, 1H, J=5.5 Hz, CHCH3); 7.28 (m, 4H arom.)

reactant | 1-butanoyloxyethyl carbonochloridate | 5 mmol | C(OC(C)OC(CCC)=O)(=O)Cl | C7H11ClO4
reactant | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 4-chloroaniline | 10 mmol, 1.3 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Et2O | 40 mL | CCOCC | C4H10O
product | 1-Butanoyloxyethyl 4-Chlorophenylcarbamate | 0.4 g, 28% | ClC1=CC=C(C=C1)NC(OC(C)OC(CCC)=O)=O | C13H16ClNO4
